US06825312B2
Preparation of 3,5-diphenyloxy-4′-methoxybenzophenone
19.0 g (0.077 mole) of 3,5-difluoro-4′-methoxybenzophenone are dissolved under argon in a mixture of 200 ml of dimethyl sulfoxide and 200 ml of toluene. 28.56 g (0.207 mole) of finely powdered potassium carbonate are added to this solution. The solution is stirred under reflux for 4 hours, the water formed being removed in a water separator. The toluene is then completely distilled off and the reaction mixture is stirred for a further 3 hours at 150° C. A further 28.56 g (0.207 mole) of finely powdered potassium carbonate and 50 ml of toluene are added. The mixture is heated under reflux and the toluene is distilled off. The solution is stirred for a further 4 hours at 150° C. After cooling, the solution is poured onto ice. The solution is neutralised by adding HCl solution (10%). Extraction with diethyl ether is performed several times. The combined organic phases are washed with saturated sodium chloride solution. The product is dried over magnesium, sulfate and the solvent is removed in vacuo. The crude product is chromatographed on silica gel (silica gel 60, 0.040-0.063 mm, Merck) using n-hexane/ethyl acetate (19:1). 14.90 g (49%) of a pale yellow oil are obtained.

reactant | 3,5-difluoro-4′-methoxybenzophenone | 0.077 mole, 19.0 g | FC=1C=C(C(=O)C2=CC=C(C=C2)OC)C=C(C1)F | C14H10F2O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 200 ml | CS(=O)C | C2H6OS
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 3,5-diphenyloxy-4′-methoxybenzophenone | 14.90 g, 49% | C1(=CC=CC=C1)OC=1C=C(C(=O)C2=CC=C(C=C2)OC)C=C(C1)OC1=CC=CC=C1 | C26H20O4
